US07491735B2
Using general procedure A, (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile (1.00 g, 6.00 mmol) and 4-(methylthio)aniline afforded (R)-3-[4-(4-methylsulfanyl-phenylamino)-piperidin-1-yl]-butyronitrile as a brown oil (1.55 g, 89%).

reactant | (R)-3-(4-oxo-piperidin-1-yl)-butyronitrile | 6.00 mmol, 1.00 g | O=C1CCN(CC1)[C@@H](CC#N)C | C9H14N2O
reactant | 4-(methylthio)aniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | (R)-3-[4-(4-methylsulfanyl-phenylamino)-piperidin-1-yl]-butyronitrile | 1.55 g, 89% | CSC1=CC=C(C=C1)NC1CCN(CC1)[C@@H](CC#N)C | C16H23N3S
